US09085576B2
A mixture of 6-chloro-5-methylpyridin-3-ol (250 mg, 0.0017 mol), 1-(chloromethyl)-4-methoxybenzene (0.328 g, 0.0020 mol, Sigma Aldrich), and potassium carbonate (0.482 g, 0.0034 mol) in DMF (5 mL) was allowed to stir for 3 h at 60° C. After completion of the reaction, reaction mixture was cooled to ambient temperature and poured into ice cold water (25 mL). The obtained solid was filtered, washed with water (2×10 mL) and dried to obtain 2-chloro-5-((4-methoxybenzyl)oxy)-3-methylpyridine as an off white solid (400 mg, 87%).

reactant | 6-chloro-5-methylpyridin-3-ol | 0.0017 mol, 250 mg | ClC1=C(C=C(C=N1)O)C | C6H6ClNO
reactant | 1-(chloromethyl)-4-methoxybenzene | 0.0020 mol, 0.328 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | potassium carbonate | 0.0034 mol, 0.482 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-chloro-5-((4-methoxybenzyl)oxy)-3-methylpyridine | ClC1=NC=C(C=C1C)OCC1=CC=C(C=C1)OC | C14H14ClNO2
